US07294636B2
To a solution of 5-ethylimidazoline-2,4-dione (1 g) in DMF (40 ml) was added potassium carbonate (2.16 g) followed by tert-butyl 4-[(methylsulfonyl)oxy]piperidine-1-carboxylate (2.18 g) and the resulting mixture was heated to 100° C. for 18 hours. The reaction mixture was concentrated under reduced pressure and then was partitioned between dichloromethane and water. The organic layer was collected, dried and evaporated to dryness. The residue was purified by chromatography on silica eluting with a gradient of isohexane to ethyl acetate/isohexane (1:1) to give tert-butyl 4(4-ethyl-2,5-dioxoimidazolidin-1-yl)piperidine-1-carboxylate as a solid. Yield 1.12 g. NMR (CDCl3): 0.95 (t, 3H), 1.5 (s, 9H), 1.9 (m, 2H), 2.35 (m, 2H), 2.7 (m, 2H), 3.8-4.0 (m, 3H), 4.1 (q, 2H), 5.6 (bs, 1H).

reactant | 5-ethylimidazoline-2,4-dione | 1 g | C(C)C1C(NC(N1)=O)=O | C5H8N2O2
reactant | potassium carbonate | 2.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-[(methylsulfonyl)oxy]piperidine-1-carboxylate | 2.18 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4(4-ethyl-2,5-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | C(C)C1NC(N(C1=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25N3O4
